### PR TITLE
feat: associativity lemmas for `BitVec.(umul, smul, uadd, sadd)Overflow`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR introduces associativity rules and preservation of `(umul, smul, uadd, sadd)Overflow`flags.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a7af9f7d5f6580071434d499e97ddbcccafb1a59 --onto 0a9c24649767dea857a388e5385b7ae94bfd0185`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-12 11:10:24)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3354,6 +3354,13 @@ theorem toNat_add_of_not_uaddOverflow {x y : BitVec w} (h : ¬ uaddOverflow x y)
   · simp only [uaddOverflow, ge_iff_le, decide_eq_true_eq, Nat.not_le] at h
     rw [toNat_add, Nat.mod_eq_of_lt h]
 
+theorem uaddOverflow_assoc {x y z : BitVec w} (h : ¬ x.uaddOverflow y) (h' : ¬ y.uaddOverflow z) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3361]:
```suggestion
/--
Unsigned addition overflow reassociation.
If `(x + y)` and `(y + z)` do not overflow, then `(x + y) + z` overflows iff `x + (y + z)` overflows.
-/
theorem uaddOverflow_assoc {x y z : BitVec w} (h : ¬ x.uaddOverflow y) (h' : ¬ y.uaddOverflow z) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3392,6 +3399,16 @@ theorem toInt_add_of_not_saddOverflow {x y : BitVec w} (h : ¬ saddOverflow x y)
       _root_.not_or, Int.not_le, Int.not_lt] at h
     rw [toInt_add, Int.bmod_eq_of_le (by push_cast; omega) (by push_cast; omega)]
 
+theorem saddOverflow_assoc {x y z : BitVec w} (h : ¬ x.saddOverflow y) (h' : ¬ y.saddOverflow z) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3410]:
```suggestion
/--
Signed addition overflow reassociation.
If `(x + y)` and `(y + z)` do not overflow, then `(x + y) + z` overflows iff `x + (y + z)` overflows.
-/
theorem saddOverflow_assoc {x y z : BitVec w} (h : ¬ x.saddOverflow y) (h' : ¬ y.saddOverflow z) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3820,6 +3837,13 @@ theorem toNat_mul_of_not_umulOverflow {x y : BitVec w} (h : ¬ umulOverflow x y)
   · simp only [umulOverflow, ge_iff_le, decide_eq_true_eq, Nat.not_le] at h
     rw [toNat_mul, Nat.mod_eq_of_lt h]
 
+theorem umulOverflow_assoc {x y z : BitVec w} (h : ¬ x.umulOverflow y) (h' : ¬ y.umulOverflow z) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3852]:
```suggestion
/--
Unsigned multiplication overflow reassociation.
If `(x * y)` and `(y * z)` do not overflow, then `(x * y) * z` overflows iff `x * (y * z)` overflows.
-/
theorem umulOverflow_assoc {x y z : BitVec w} (h : ¬ x.umulOverflow y) (h' : ¬ y.umulOverflow z) :

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3829,6 +3853,16 @@ theorem toInt_mul_of_not_smulOverflow {x y : BitVec w} (h : ¬ smulOverflow x y)
       _root_.not_or, Int.not_le, Int.not_lt] at h
     rw [toInt_mul, Int.bmod_eq_of_le (by push_cast; omega) (by push_cast; omega)]
 
+theorem smulOverflow_assoc {x y z : BitVec w} (h : ¬ x.smulOverflow y) (h' : ¬ y.smulOverflow z) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3873]:
```suggestion
/--
Signed multiplication overflow reassociation.
If `(x * y)` and `(y * z)` do not overflow, then `(x * y) * z` overflows iff `x * (y * z)` overflows.
-/
theorem smulOverflow_assoc {x y z : BitVec w} (h : ¬ x.smulOverflow y) (h' : ¬ y.smulOverflow z) :
```

**Review by bollu — APPROVED** [review]
LGTM. I wonder if it is worth naming the hypotheses as `hxy` and `hyz` for ease of use, or `h₁, h₂`.

**Review by javra — APPROVED** [review]
Thanks!

**Comment by luisacicolini** [comment]
changelog-library
